US05089507
2-(pyrrolidin-1-yl)methyl-5,5-dimethyl piperidine
By reducing 3.3 g (15.69 mmoles) of 2-(pyrrolidin-1-yl)carbonyl-5,5-dimethyl piperidine with 0.89 g (23.5 mmoles) of LiAlH4 in 80 ml of dry THF, using an alkaline work-up, 2.5 g of the title compound were obtained. The compound was sufficiently pure for the following step.

reactant | 2-(pyrrolidin-1-yl)carbonyl-5,5-dimethyl piperidine | 15.69 mmoles, 3.3 g | N1(CCCC1)C(=O)C1NCC(CC1)(C)C | C12H22N2O
reactant | LiAlH4 | 23.5 mmoles, 0.89 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 2-(pyrrolidin-1-yl)methyl-5,5-dimethyl piperidine | 2.5 g | N1(CCCC1)CC1NCC(CC1)(C)C | C12H24N2
